US07612211B2
A. (5-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester
A mixture of 4-bromo-benzene-1,2-diamine (20 g, 107 mmol), di-t-butyl dicarbonate (117 g, 535 mmol) and a solution of 2N NaOH (134 mL, 267 mmol) in dichloromethane (300 mL) was stirred at room temperature for 12 h. The reaction mixture was extracted with dichloromethane (700 mL) and brine (500 mL). The organic layer was dried over Na2SO4, filtered, and the filtrate was concentrated in vacuo. The residue was purified by chromatography (silica, EtOAc: hexanes, 3:7) to afford the title compound as a brown solid (41 g, quantitative yield). 1H NMR (400 MHz, CDCl3) δ (ppm): 7.74 (br s, 1H), 7.31 (br s, 1H) 7.19 (dd, 1H, J=8.6 Hz, J=2.2 Hz), 6.81 (br s, 1H), 6.63 (br s, 1H), 1.51 (s, 18H).). Mass Spectrum (LCMS, ESI pos.) Calcd. For C16H23BrN2O4: 388.27 (M+H), Found 388.4.

reactant | 4-bromo-benzene-1,2-diamine | 107 mmol, 20 g | BrC=1C=C(C(=CC1)N)N | C6H7BrN2
reactant | di-t-butyl dicarbonate | 535 mmol, 117 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 267 mmol, 2N, 134 mL | [OH-].[Na+]
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | (5-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester | 41 g, quantitative yield | C(C)(C)(C)OC(NC1=C(C=CC(=C1)Br)NC(=O)OC(C)(C)C)=O | C16H23BrN2O4
